US05536718
6- [([1,1'-Biphenyl]-2-carbonyl)amino]pyridine-3-carboxylic Acid
To a stirred solution of 2.5 g of methyl 6-[([1,1'-biphenyl]-2-carbonyl)amino]-pyridine-3-carboxylate in 50 ml of 1:1 tetrahydrofuran:methanol is added 10 ml of 5N sodium hydroxide and the mixture stirred at room temperature for 16 hours. The reaction mixture is concentrated in vacuo to a residue which is dissolved in water and neutralized with acetic acid. The separated colorless solid is filtered and air dried to give 2.0 g of the desired product: M+ =318.

reactant | methyl 6-[([1,1'-biphenyl]-2-carbonyl)amino]-pyridine-3-carboxylate | 2.5 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)OC)C1=CC=CC=C1 | C20H16N2O3
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 5N, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6- [([1,1'-Biphenyl]-2-carbonyl)amino]pyridine-3-carboxylic Acid | 2.0 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)O)C1=CC=CC=C1 | C19H14N2O3
